US08114893B2
Step 1: Preparation of tert-butyl 4-(benzyloxy)benzylcarbamate (45A)
Di-tert-butyl dicarbonate (0.934 g, 4.3 mmol) was added to a solution of 4-benzyloxybenzylamine (0.83 g, 3.89 mmol) and NaOH (0.171 g, 4.3 mmol) in water (15 mL) and THF (5 mL). The reaction mixture was stirred at rt for 4 hours, concentrated under reduced pressure to remove THF, and extracted with DCM. The organic phases were dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified by column chromatography on silica gel eluting with a gradient of PE:EtOAc 92:8 to 87:13 to provide the desired product tert-butyl 4-(benzyloxy)benzylcarbamate (45A).

reactant | Di-tert-butyl dicarbonate | 4.3 mmol, 0.934 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-benzyloxybenzylamine | 3.89 mmol, 0.83 g | C(C1=CC=CC=C1)OC1=CC=C(CN)C=C1 | C14H15NO
reactant | NaOH | 4.3 mmol, 0.171 g | [OH-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(benzyloxy)benzylcarbamate | C(C1=CC=CC=C1)OC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C19H23NO3
